US07582633B2
Step 2: [1-(2-{4-[2-(Trifluoromethyl)phenoxy]piperidin-1-yl}pyrimidin-5-yl)-1H-1,2,3-triazol-4-yl]acetaldehyde
Into a 25-mL flask equipped with a magnetic stirbar was added 2-[1-(2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyrimidin-5-yl)-1H-1,2,3-triazol-4-yl]ethanol (50 mg, 0.12 mmol) and dichloromethane (5 mL). To the solution was added Dess-Martin periodinane (59 mg, 0.14 mmol) and the reaction mixture stirred at room temperature for 1 h. The reaction mixture was concentrated and purified by column chromatography through silica gel, eluting with 60:40 Hexanes/EtOAc to 40:60 Hexanes/EtOAc, yielding the desired product as a yellow solid. MS (ESI, Q+) m/z 433 (M+1).

reactant | 2-[1-(2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyrimidin-5-yl)-1H-1,2,3-triazol-4-yl]ethanol | 0.12 mmol, 50 mg | FC(C1=C(OC2CCN(CC2)C2=NC=C(C=N2)N2N=NC(=C2)CCO)C=CC=C1)(F)F | C20H21F3N6O2
reactant | Dess-Martin periodinane | 0.14 mmol, 59 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | [1-(2-{4-[2-(Trifluoromethyl)phenoxy]piperidin-1-yl}pyrimidin-5-yl)-1H-1,2,3-triazol-4-yl]acetaldehyde | FC(C1=C(OC2CCN(CC2)C2=NC=C(C=N2)N2N=NC(=C2)CC=O)C=CC=C1)(F)F | C20H19F3N6O2
